US08207164B2
e) (S)-1-Azido-2-(5-bromo-2-fluoro-phenyl)-propan-2-ol
To a solution of (S)-2-(5-bromo-2-fluoro-phenyl)-2-methyl-oxirane (51.85 g, 224 mmol) in EtOH (800 ml) was added NaN3 (36.8 g, 531 mmol), NH4Cl (60.6 g, 1122 mmol) and 18-crown-6 (59.8 g, 224 mmol) and the reaction mixture was heated at reflux for 6 h. The reaction mixture was filtered and concentrated to half of its volume. The residual oil was extracted with EtOAc. Combined extracts were washed with saturated NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated to provide the title compound as a light yellow oil: TLC (hexane-EtOAc 1:1): Rf=0.70; HPLC RtH3=1.115 min; 1H NMR (360 MHz, CDCl3): δ 7.72 (dd, 1H), 7.32 (m, 1H), 6.85 (dd, 1H), 3.73 (d, 1H), 3.51 (d, 1H), 2.44 (s, 1H), 1.50 (s, 3H).

reactant | (S)-2-(5-bromo-2-fluoro-phenyl)-2-methyl-oxirane | 224 mmol, 51.85 g | BrC=1C=CC(=C(C1)[C@@]1(OC1)C)F | C9H8BrFO
reactant | NaN3 | 531 mmol, 36.8 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 1122 mmol, 60.6 g | [NH4+].[Cl-]
reactant | 18-crown-6 | 224 mmol, 59.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | EtOH | 800 ml | CCO | C2H6O
product | (S)-1-Azido-2-(5-bromo-2-fluoro-phenyl)-propan-2-ol | N(=[N+]=[N-])C[C@@](C)(O)C1=C(C=CC(=C1)Br)F | C9H9BrFN3O
